### PR TITLE
feat: in a w-local space the connected components are homeomorphic to the closed points

### PR DESCRIPTION
**Pull request by chrisflav**
Supersedes PR #14, keeping only the parts that are still missing.

### CODE REVIEW

**Comment by chrisflav** [comment]
orchestra address review: Merge latest master into this branch. Then polish the code changed in this PR.

**Comment by chrisflav** [comment]
orchestra address review: Merge latest master into this branch.

File: Proetale/Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean [hunk 1]
```diff
@@ -5,37 +5,29 @@ universe u
 
 open CategoryTheory Limits
 
-lemma TopCat.prodFst_apply {X Y : TopCat.{u}} (x : X × Y) : TopCat.prodFst x = x.1 := by
-  rfl
-
```
Comment (chrisflav) [inline Proetale/Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean:10]: Revert the changes to this file and keep the upstream version.

File: .gitignore [hunk 2]
```diff
@@ -14,4 +14,5 @@ blueprint/src/print.log
 blueprint/src/print.out
 blueprint/src/print.synctex.gz
 blueprint/src/print.pdf
+PHILOSOPHY.md
```
Comment (chrisflav) [inline .gitignore]: Revert this change.

File: Proetale/Morphisms/IsEtale.lean [hunk 3]
```diff
@@ -0,0 +1,41 @@
...
+  sorry
+
+namespace AlgebraicGeometry
+
+/-- A flat, locally finitely presented and formally unramified morphism of schemes is étale. -/
+theorem Etale.of_flat_of_locallyOfFinitePresentation_of_formallyUnramified {X Y : Scheme.{u}}
+    (f : X ⟶ Y) [Flat f] [LocallyOfFinitePresentation f] [FormallyUnramified f] : Etale f := by
+  sorry
+
+end AlgebraicGeometry
```
Comment (chrisflav) [inline Proetale/Morphisms/IsEtale.lean]: Remove this file, it serves no purpose as is.

File: Proetale/Morphisms/DiagonalLocallyOfFinitePresentation.lean [hunk 4]
```diff
@@ -0,0 +1,67 @@
+/-
+Copyright (c) 2025 Jiedong Jiang, Christian Merten. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Jiedong Jiang, Christian Merten
+-/
+import Mathlib.AlgebraicGeometry.Morphisms.FinitePresentation
```
Comment (chrisflav) [inline Proetale/Morphisms/DiagonalLocallyOfFinitePresentation.lean]: Move the content of this file to a new file `Proetale.Mathlib.AlgebraicGeometry.Morphisms.FinitePresentation`.

File: Proetale/Morphisms/DiagonalLocallyOfFinitePresentation.lean [hunk 5]
```diff
@@ -0,0 +1,67 @@
...
+
+open CategoryTheory Limits MorphismProperty
+
+namespace AlgebraicGeometry
+
+/-- Cancellation: if `f ≫ g` is locally of finite presentation and `g` is locally of finite type,
+then `f` is locally of finite presentation. -/
+theorem LocallyOfFinitePresentation.of_comp_locallyOfFiniteType {X Y Z : Scheme} (f : X ⟶ Y)
+    (g : Y ⟶ Z) [hfg : LocallyOfFinitePresentation (f ≫ g)] [hg : LocallyOfFiniteType g] :
+    LocallyOfFinitePresentation f :=
```
Comment (chrisflav) [inline Proetale/Morphisms/DiagonalLocallyOfFinitePresentation.lean]: Prove a more general lemma for `AlgebraicGeometry.HasRingHomProperty`: It should be similar to `AlgebraicGeometry.HasRingHomProperty.of_comp`, but with one `P` with `HasRingHomProperty P Q` and a second `W : MorphismProperty Scheme.{u}` that implies `Q'` on global sections for affine schemes. Then if `Q` satisfies a cancellation property wrt. `Q'`, `P` satisfies `OfPostcompProperty` wrt. `W`.

**Comment by chrisflav** [comment]
orchestra address review
